2104-06-04 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Left PICC placed ending in brachiocephalic vein
   -LDH to r/o PCP [**Name Initial (PRE) 1996**] 221. Urine BK/legionella, CMV vL all pending.
   Nasopharyngeal swab positive for parainfluenza.
   -Ruled out for acute ischemia (CK 172->185, MB 5->6, TropT 0.09->0.08)
   -Given 80 mg IV Lasix in morning for possible CHF. Echo ordered for
   [**6-4**].
   -BP difficult to control. Nitro gtt uptitrated, written for hydralazine
   and amlodipine, home metoprolol. Given another dose of lasix overnight
   for SBP > 200. Nicardipine gtt started. CXR with no significant
   chnages. Question of elevated BP d/t respiratory distress v. steroids
   v. narcotic withdrawal. (?try morphine or clonidine patch).
   -Restarted on home dose methadone and prn hydromorphone 4mg 5x daily
   restarted
   -Urine lytes with FeUrea 37.7 (borderline for pre-renal ARF).
   Renal/transplant recs: ARF d/t hypertension vs tacro tox (level 5.9) vs
   rejection vs BK. Kidney u/s: performed but not read.
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 2 mcg/Kg/min
   Nicardipine - 1 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-6-3**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2104-6-4**] 12:00 AM
   Morphine Sulfate - [**2104-6-4**] 04:06 AM
   Furosemide (Lasix) - [**2104-6-4**] 04:06 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-4**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96
   HR: 88 (67 - 100) bpm
   BP: 192/92(114) {162/79(108) - 206/115(148)} mmHg
   RR: 18 (14 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  2,338 mL
                                                                    634 mL
   PO:
                                                                  1,110 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    478 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                    700 mL
   Urine:
                                                                  1,295 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,043 mL
                                                                    -66 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 30%
   SpO2: 98%
   ABG: 7.32/39/52/20/-5
   Ve: 13.4 L/min
   PaO2 / FiO2: 173
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   214 K/uL
   8.6 g/dL
   211 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   50 mg/dL
   92 mEq/L
   126 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2104-6-3**]  07:57 AM
                             [**2104-6-3**]  12:51 PM
                             [**2104-6-3**]  09:53 PM
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
   WBC
   4.3
   7.4
   Hct
   28.8
   26.3
   Plt
   170
   214
   Cr
   3.9
   3.6
   3.8
   3.5
   3.7
   TropT
   0.08
   0.05
   TCO2
   21
   Glucose
   129
   529
   178
   497
   211
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   60M with ESRD s/p CRT, HTN, COPD p/w severe hypertension and dyspnea
   <I>PLAN:</I>
   <I>## Dyspnea:</I>Differential dx includes COPD flare, pneumonia, ACS,
   CHF. No ischemic changes or elevations in cardiac enzymes, time course
   (progressive over 2 days) also atypical for ACS.  No fevers or
   leukocytosis, although pt is immunosuppressed, no focal infiltrate or
   increased sputum production to suggest pneumonia. Hypertension and
   acute on chronic renal failure leading to volume overload and pulmonary
   edema would fit well with this picture and would be c/w marked anterior
   wheeze, however his JVP is flat, his BNP is not elevated from 3 years
   ago, his CXR doesn't show clear volume overload and he has no crackles
   on exam.  His prolonged expiratory phase and known h/o COPD as well as
   hyperinflated lungs argue for a COPD flare.
   -Frequent nebs, trial of continuous neb mask.  Bicarb WNL, no evidence
   of chronic respiratory acidosis, if this is COPD flare it is acute,
   with no time for compensation.
   -Check ABG
   -Azithromycin x total 5 day course.
   -Prednisone burst, continue 60mg per day
   -check sputum cx,  urine legionella antigen
   -Consider repeat BiPap trial if nebs not effective
   -consider diuresis if above not effective
   -continue full ROMI
   <I>## Hypertension:</I>Has known difficult to control HTN, with
   hypertensive nephropathy/ESRD s/p transplant.  Reports med adherence.
   [**Month (only) 8**] be due to renal failure and volume overload or distress from COPD
   flare.
   -Nitro gtt for now, goal SBP <160
   -Continue BB
   -Hold [**Last Name (un) **] due to ARF.
   <I>## Acute renal failure:</I>History of ESRD due to hypertensive
   nephropathy, had been on dialysis before CRT in [**2097**].  Reports
   adherence with immunosuppresants.  Unclear precipitant for ARF, ddx
   includes dehydration, although unlikely given hypertension; rejection,
   recurrence of hypertensive nephropathy in graft.
   -Check prograf level this am (esp in setting of ARF and macrolide use
   -continue prednisone (increased per above), cellcept, prograf
   -renal transplant consult
   -urine lytes
   -graft ultrasound
   -hold [**Last Name (un) **]
   -hold lasix for now pending urine studies and discussion with renal,
   may warrant trial if does not improve.
   <I>## Hyperlipidemia:</I>
   -continue statin and ezetimibe
   <I>## DM:</I>
   -HISS
   -diabetic diet
   <I>## Chronic pain:</I>
   -continue home oxycontin per OMR
   <I>## GERD:</I>
   -Home PPI [**Hospital1 **]
   <I>## Constipation:</I>
   -senna, colace
   <I>## FEN/Lytes:</I> Cardiac, low salt, diabetic diet, replete lytes
   prn
   <I>## Prophylaxis:</I> Heparin SC 5000 tid, PPI, bowel regimen.
   <I>## Code status:</I> FULL CODE, confirmed.
   <I>## Dispo:</I> Call out to floor when BP controlled, off BiPap
   ICU Care
   Nutrition:
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2104-6-3**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2104-06-04 13:32:00 Physician Attending Progress Note
Chief Complaint: dyspnea
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60M with htn, copd, tobacco use, esrd s/p kidney tx, p/w arf, dysnea
   with wheezing, parainfluenza positive:
   24 Hour Events:
 ULTRASOUND - At [**2104-6-3**] 01:51 PM
 ULTRASOUND - At [**2104-6-3**] 02:16 PM
 PICC LINE - START [**2104-6-3**] 04:26 PM
 NON-INVASIVE VENTILATION - START [**2104-6-4**] 04:00 AM
 NON-INVASIVE VENTILATION - STOP [**2104-6-4**] 04:15 AM
   Difficult night with increased wheezing and sob; bipap for a few mins
   but refused. NEBS help but refusing.
   BP control challenging, started on nicardipine gtt (on LEG).
   Kidney u/s normal per verbal report.
   PICC placed.
                           History obtained from [**Hospital 19**] Medical records
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Nitroglycerin - 0.5 mcg/Kg/min
   Nicardipine - 1 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2104-6-3**] 08:00 PM
   Morphine Sulfate - [**2104-6-4**] 04:06 AM
   Furosemide (Lasix) - [**2104-6-4**] 04:06 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-4**] 08:28 AM
   Other medications:
   duloxetine, azithro, atorvast, oxycodone 30 q12, riss, sqh, zetia, mmf,
   omepr, tacro 4q12, methadone tid, albut, hydral, methylpred 80 q8,
   hydral 50 q6, nidacrdipine, clonidine, amlodipine, dilaudid prn; lasix
   x1 at 4am, hydral iv, morphine x1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Ear, Nose, Throat: No(t) Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, Tachypnea, Wheeze
   Gastrointestinal: Abdominal pain, No(t) Nausea, No(t) Emesis, No(t)
   Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Integumentary (skin): No(t) Rash
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Signs or concerns for abuse
   Pain: [**2-1**] Minimal
   Pain location: abdomen and chest
   Flowsheet Data as of  [**2104-6-4**] 01:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.7
C (96.2
   Tcurrent: 35.6
C (96
   HR: 82 (67 - 102) bpm
   BP: 158/74(92) {141/60(91) - 206/115(148)} mmHg
   RR: 23 (15 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  2,338 mL
                                                                    927 mL
   PO:
                                                                  1,110 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    478 mL
                                                                    447 mL
   Blood products:
   Total out:
                                                                  1,295 mL
                                                                  1,000 mL
   Urine:
                                                                  1,295 mL
                                                                  1,000 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,043 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 8 cmH2O
   PEEP: 5 cmH2O
   FiO2: 30%
   SpO2: 97%
   ABG: VBG 7.39/35/39
   Ve: 13.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : expiratory bilateral / central, No(t) Diminished: , No(t)
   Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: mildly throughout
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   214 K/uL
   211 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.4 mEq/L
   50 mg/dL
   92 mEq/L
   126 mEq/L
   26.3 %
   7.4 K/uL
        [image002.jpg]
                             [**2104-6-3**]  07:57 AM
                             [**2104-6-3**]  12:51 PM
                             [**2104-6-3**]  09:53 PM
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
   WBC
   4.3
   7.4
   Hct
   28.8
   26.3
   Plt
   170
   214
   Cr
   3.9
   3.6
   3.8
   3.5
   3.7
   TropT
   0.08
   0.05
   TCO2
   21
   Glucose
   129
   529
   178
   497
   211
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:5.1 mg/dL
   Fluid analysis / Other labs: tacro 7.4
   spot protein ~3 g, comparable to 2 moonths ago
   Microbiology: Positive for Parainfluenza type 3 viral antigen.
   Other tests pending
   Assessment and Plan
   60M with htn, copd, esrd s/p kidney tx in [**2096**], presents with dyspnea
   and wheezing, with parainfluanza isolated, along with severe htn and
   arf:
   WHEEZING / RESP DISTRESS: likely mostly copd exac, possible from viral
   infection, vs mainly viral infection (given lack of prior frequent
   admits for copd exacerbation and normal pCO2):
   -will consider steroids back down to prednisone 5 daily (home dose)
   unless renal has concern for rejection and higher dose is recommended;
   -cont nebs; make ipratropium standing and continue albuterol standing
   and prn
   -no specific treatment for parainfluenza at this time
   -would benefit from cpap if able to tolerate but declining
   ANEMIA:
   -check iron panel
   ARF/TRANSPLANT: Cr remains elevated
   -fu final read on kidney and discuss with transplant additional imaging
   / tests
   -will avoid nephrotoxins and renal adjust meds
   HTN: can only check on leg; thus likely falsely elevated [**Location (un) 118**] in
   part
   -start clonidine and titrate off drips
   -clarify "goal bp" with renal
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code (discussed with patient and confirmed Full Code
   today by Dr [**Last Name (STitle) 6197**]
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   I was physicall present with the resident and fellow team on this date
   for the key portions of the service provided.  I reviewed the history,
   exam, ROS, data and assessment and plan with which I agree.  In
   addition, I would add the following remarks.
   patient with increasing wheezing and tachypnea and trialed on
   BIPAP
   Increased Steroids dosing
   Lasix/Better BP control with IV agents (TNG and Hydralazine overnight)
   Patient also had return of viral cultures as positive with
   Parainfluenza 3.
   EXAM-patient with persistent prolonged expiratory phase and signficant
   abdominal rounding on expiration
   CXR-Suggestion of right mid lung zone opacity
   Very interesting 60 yo male with presentation with bronchospasm and now
   with likely viral pathogen trigger.  He has shown modest improvement in
   past 24 hours but with persistent respiratory distress
   -Continue NEBS
   -Given risk of prolonging acute infection and minimal change in
   bronchospasm will decrease steroids to baseline dosing
   -Azithro reasonable empirically with minimal risk
   -Patient on room air
   Critical Care Time-35 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2104-6-4**] 17:09 ------

2104-06-05 08:02:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Urine legionella neg. CMV VL, BK, beta-gluc, galactomannan pending.
   -Tacro level 7.4 (Goal [**5-7**]).
   -Pt refused TTE.
   -Renal ultrasound: no acute findings.
   -Renal transplant recs: Chronic transplant nephropathy. Consider bx to
   r/o acute graft rejection.
   -BP: Cont hydral, amlodipine, and nicardipine gtt. Added clonidine.
   Nitro gtt weaned off. Uptitrated hydral 75 tid as BP still elevated.
   -UO: No urine output since 8am - refusing po intake. Given 250cc NS
   bolus with 250cc output. Started on LR @ 100/h for maintenance.
   - After MN dose of hydral, SBP decreased to 94, pt with
   lightheadedness. Nifedipine gtt discontinued. SBP 114 when rechecked,
   still lightheaded so gave 250 cc bolus LR, then started maint fluids.
   -Goal I/O (neg 500 cc)-
   -Satting well on room air, using nebulizer prn
   Patient reports that is breathing is not normal, but says everything is
   fine and refuses to answer more questions.
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-4**] 04:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-5**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.8
C (96.4
   HR: 96 (75 - 102) bpm
   BP: 156/128(135) {114/48(46) - 191/128(135)} mmHg
   RR: 21 (16 - 25) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  1,653 mL
                                                                    912 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    933 mL
                                                                    912 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    350 mL
   Urine:
                                                                  1,250 mL
                                                                    350 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    378 mL
                                                                    562 mL
   Respiratory support
   SpO2: 92%
   ABG: ///17/
   Physical Examination
   General: Awake, alert, appears to be breathing heavily. .
   Pulmonary: Diffuse wheezes b/l.  No crackles, no rhonchi, prolonged
   expiratory phase.
   Cardiac: RRR, S-S2 nl.
   Abdomen: BS present throughout, no tenderness on limited eval due to pt
   uncooperativeness
   Extremities: No edema.  Has non-functional right UE fistula.
   Skin: Multiple keloids
   Neurologic: Alert, oriented x 3.
   Labs / Radiology
   248 K/uL
   10.1 g/dL
   148 mg/dL
   3.7 mg/dL
   17 mEq/L
   5.3 mEq/L
   60 mg/dL
   91 mEq/L
   122 mEq/L
   30.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2104-6-3**]  07:57 AM
                             [**2104-6-3**]  12:51 PM
                             [**2104-6-3**]  09:53 PM
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
                             [**2104-6-5**]  04:15 AM
   WBC
   4.3
   7.4
   10.5
   Hct
   28.8
   26.3
   30.5
   Plt
   170
   214
   248
   Cr
   3.9
   3.6
   3.8
   3.5
   3.7
   3.7
   TropT
   0.08
   0.05
   TCO2
   21
   Glucose
   129
   529
   178
   497
   211
   148
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:5.8 mg/dL
   Assessment and Plan
   60M with ESRD s/p CRT, HTN, COPD p/w severe hypertension and dyspnea
   # Dyspnea: Underlying COPD with possible exacerabtion in setting of
   parainfluenza, also with component of CHF. Ruled out for ACS.
   -Continue frequent nebs.
   -Azithromycin x total 5 day course.
   -Consider decreasing prednisone dose as tx for parainfluenza mostly
   supportive but aided by reduction in steroids
   -F/u pending micro
   -Monitor I/O with goal net even to neg 500, consider diuresis
   -Completed ROMI
   #Hypertension: Has known difficult to control HTN, with hypertensive
   nephropathy/ESRD s/p transplant.  Reports med adherence. [**Month (only) 8**] be due to
   respiratory distress, HD steroids, narcotic withdrawal, renal failure,
   volume overload. No evidence of RAS on renal US.  Currently at hydral
   75mg q6H, clonidine 0.1mg PO TID, Amlodipine 10mg daily, Nicardipine
   gtt currently off.
   -Cont hydral, amlodipine, and lopressor. Will wean off nitro gtt and
   add clonidine po. Consider uptitrating hydral and amlodipine if stil no
   responsive.
   -Holding [**Last Name (un) **] due to ARF
   -F/u renal recs
   # Acute renal failure: History of ESRD due to hypertensive nephropathy,
   had been on dialysis before CRT in [**2097**].  Reports adherence with
   immunosuppresants.  Unclear precipitant for ARF, ddx includes
   dehydration, although unlikely given hypertension; transplant
   nephropathy. No evidence of RAS on ultrasound. Tacrolimus level in nl
   range.  BK virus DNA not detected.
   -Continue prednisone (will d/w renal dose), cellcept, prograf
   -F/u renal transplant recs
   -Could consider bx to r/o acute transplant rejection
   -Cont to hold [**Last Name (un) **] and gabapentin for now
   -Consider lasix, would be ok to give per Renal
   # Hyponatremia: Repeating labs as have had some spurious Na with this
   patient before but does seem to have some element of hyponatremia.
   Suspect SIADH likely secondary to lung process.  Will check urine
   labs.  Consider fluid restriction.
   -F/u repeat labs
   -F/u urine lytes
   # Hyperlipidemia:
   -continue statin and ezetimibe
   # DM:
   -HISS
   -diabetic diet
   # Chronic pain:
   -continue home oxycontin and dilaudid prn per OMR
   -Holding gabapentin due to ARF
   # GERD:
   -Home PPI [**Hospital1 **]
   # Constipation:
   -senna, colace
   ICU Care
   Nutrition: Cardiac, low salt, diabetic diet, replete lytes prn
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2104-6-3**] 04:26 PM
   Prophylaxis:
   DVT: Heparin SC 5000 tid
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU, call out to floor when BP better controlled

2104-06-05 09:56:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MIDLINE - START [**2104-6-4**] 10:00 AM
   Not a PICC line, midline
 PICC LINE - STOP [**2104-6-4**] 10:01 AM
   -BP control enhanced and moved to PO medications alone
   -IVF required for low urine output
   -Patient on room air
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2104-6-4**] 04:24 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2104-6-5**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35
C (95
   HR: 80 (75 - 96) bpm
   BP: 161/51(78) {114/48(46) - 191/128(135)} mmHg
   RR: 23 (16 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  1,653 mL
                                                                  1,019 mL
   PO:
                                                                    720 mL
             TF:
   IVF:
                                                                    933 mL
                                                                  1,019 mL
   Blood products:
   Total out:
                                                                  1,275 mL
                                                                    350 mL
   Urine:
                                                                  1,250 mL
                                                                    350 mL
   NG:
                                                                     25 mL
   Stool:
   Drains:
   Balance:
                                                                    378 mL
                                                                    669 mL
   Respiratory support
   SpO2: 94%
   ABG: ///13/
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Wheezes : prolonged expiratory phase noted)
he has
   profound and significant expiratory airflow obstruction which is really
   dominantly central.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.1 g/dL
   248 K/uL
   166 mg/dL
   4.1 mg/dL
   13 mEq/L
   5.3 mEq/L
   61 mg/dL
   92 mEq/L
   122 mEq/L
   30.5 %
   10.5 K/uL
        [image002.jpg]
                             [**2104-6-3**]  07:57 AM
                             [**2104-6-3**]  12:51 PM
                             [**2104-6-3**]  09:53 PM
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
                             [**2104-6-5**]  04:15 AM
                             [**2104-6-5**]  06:45 AM
   WBC
   4.3
   7.4
   10.5
   Hct
   28.8
   26.3
   30.5
   Plt
   170
   214
   248
   Cr
   3.9
   3.6
   3.8
   3.5
   3.7
   3.7
   4.1
   TropT
   0.08
   0.05
   TCO2
   21
   Glucose
   129
   529
   178
   497
   211
   148
   166
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
   60 yo male admit with significant respiratory distress and now with
   Parainfluenza seen on viral screen as likely trigger and patient with
   slow move towards improvement but with persistent wheezes noted.  He
   has tolerated wean of steroid Rx to baseline doses without clear
   worsening in respiratory status.
   1)Respiratory Failure-_Persistent and signficant wheezes seen and worse
   than yesterday.
   -Recemic epi
   -Will increase steroid dosing given worsening from yesterday if durable
   response not seen from yesterday
   -Will need to move to intubation if clinical improvement not seen with
   epinephrine
   -With intubation will move to bronch and CT with evaluation needed
   -CXR this morning
   -Concerning worsening across time in regards to continued distress,
   limited capacity to perform further investigations.
   -He has worsening HCO3- and will need to evaluate for evidence of
   lactic acidosis which may result from respiratory distress
which would
   be a n indicator for need for intubation and support
   -Need to achieve adequate stability for CT scan to evaluate airway
   lesions further
   2)Hypertension-
   -Continue BP control with multiple medications and look to wean off of
   IV support
   3)Renal Failure--S/P Transplant-
   -Continue with renal support
   -no change in medications.
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Prophylaxis:
   DVT: Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Discussed with patient
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2104-06-06 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   -patient intubated
   -a-line placed
   -racemic epinephrine - didn't help
   -CT chest
 evaluation limited by respiratory motion; lungs are grossly
   clear with mild emphysema. ETT appropriately positioned. Intrathoracic
   trachea grossly patent, as are mainstem and proximal bronchi.
   -increase steroids --> solumedrol 125 q8
   -renal to consider Tx biopsy tomorrow.
   -decreased urine output, unable to obtain lytes
   -was hypotensive --> stopped HTN meds --> was on phenylephrine gtt for
   a little.  Weaned off and bolused with NS to keep MAP > 65
   -no new micro data
   -transplant ultrasound: elevated resistive indices on Doppler, greater
   than 2 days earlier, suggesting rejection. No hydro or fluid
   collection.
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2104-6-5**] 12:30 PM
   Fentanyl - [**2104-6-5**] 12:30 PM
   Heparin Sodium (Prophylaxis) - [**2104-6-5**] 03:46 PM
   Propofol - [**2104-6-5**] 05:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-6**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 82 (77 - 124) bpm
   BP: 140/71(88) {94/44(63) - 206/118(121)} mmHg
   RR: 8 (7 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  2,039 mL
                                                                  3,440 mL
   PO:
             TF:
   IVF:
                                                                  1,919 mL
                                                                  3,280 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    315 mL
   Urine:
                                                                    786 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                  3,125 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 750 (600 - 750) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.27/39/129/14/-8
   Ve: 10.4 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General: sedated but opens eyes to voice, responds to simple commands,
   intubated
   Pulmonary: faint scattered expiratory wheezes, decreased from prior
   Cardiac: RRR, normal S1/S2
   Abdomen: BS present throughout, soft and non-tender abdomen
   Extremities: No edema.  Has non-functional right UE fistula.  A-line in
   place LUE.
   Skin: Multiple keloids
   Neurologic: sedated as above; moving all extremities; responds to voice
   Labs / Radiology
   198 K/uL
   9.2 g/dL
   164 mg/dL
   4.1 mg/dL
   14 mEq/L
   5.3 mEq/L
   71 mg/dL
   97 mEq/L
   125 mEq/L
   27.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
                             [**2104-6-5**]  04:15 AM
                             [**2104-6-5**]  06:45 AM
                             [**2104-6-5**]  02:35 PM
                             [**2104-6-5**]  06:28 PM
                             [**2104-6-5**]  11:05 PM
                             [**2104-6-6**]  02:59 AM
                             [**2104-6-6**]  03:26 AM
   WBC
   7.4
   10.5
   9.3
   Hct
   26.3
   30.5
   27.9
   Plt
   [**Telephone/Fax (3) 6230**]
   Cr
   3.8
   3.5
   3.7
   3.7
   4.1
   4.1
   TropT
   0.05
   TCO2
   20
   18
   20
   19
   Glucose
   178
   497
   211
   148
   166
   164
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Lactic Acid:0.7 mmol/L, Ca++:7.2 mg/dL, Mg++:1.9
   mg/dL, PO4:5.2 mg/dL
   Assessment and Plan
   60 yo man with ESRD s/p CRT, HTN, COPD p/w severe hypertension and
   dyspnea, now intubated for progressive respiratory distress.
   # Dyspnea: Underlying COPD with possible exacerbation in setting of
   parainfluenza, also with ?component of CHF. Ruled out for ACS.
   Progressive respiratory distress and fatigue required intubation on
   [**6-5**]. ABGs now consistent with adequate oxygenation and ventilation. CT
   scan did not show significant underlying pulmonary disease, and there
   was no airway obstruction.
   -Continue frequent bronchodilator therapy
   -Azithromycin for total 5 day course
   -Discontinue steroids today (d/t lack of benefit in the last three
   days)
   -F/u micro data
   -Trial of paralytics today to determine if central versus small airways
   obstruction
   # Volatile blood pressure: Has known difficult to control HTN, with
   hypertensive nephropathy/ESRD s/p transplant.  Reports med adherence.
   [**Month (only) 8**] be due to respiratory distress, HD steroids, narcotic withdrawal,
   renal failure, volume overload. No evidence of RAS on renal US.  Had
   been on hydral 75mg q6H, clonidine 0.1mg PO TID, Amlodipine 10mg daily,
   and Nicardipine gtt; however, post-intubation his blood pressure
   dropped and he has since required fluid boluses to maintain MAP >65.
   -Continue fluid boluses to maintain MAP >65
   -Holding [**Last Name (un) **] due to ARF
   -F/u renal recs
   # Acute renal failure: History of ESRD due to hypertensive nephropathy,
   had been on dialysis before CRT in [**2097**].  Reports adherence with
   immunosuppresants. FeNa yesterday 1.4.  Unclear precipitant for ARF,
   ddx includes dehydration, although unlikely given hypertension;
   transplant nephropathy. Question of rejection on most recent
   ultrasound. Tacrolimus level in nl range.  BK virus DNA not detected.
   -Continue steroids, cellcept, prograf
   -F/u renal transplant recs; consider biopsy
   -Cont to hold [**Last Name (un) **] and gabapentin for now
   # Hyponatremia: Suspect SIADH secondary to pulmonary process; urine
   osms 314 suggests that he may be inappropriately concentrating urine.
   Consider fluid restriction.
   -F/u renal recs
   -Consider free water restriction
   -Q12h serum sodium checks
   # Hyperlipidemia:
   -continue statin and ezetimibe
   # DM:
   -HISS
   -diabetic diet
   # Chronic pain:
   -continue home oxycontin, methadone, and dilaudid prn per OMR
   -holding gabapentin due to ARF
   # GERD:
   -Home PPI [**Hospital1 **]
   # Constipation:
   -senna, colace
   ICU Care
   Nutrition: start tube feeds today
   Glycemic Control:  RISS
   Lines:
   PICC Line  [**2104-6-3**] 04:26 PM
   Prophylaxis:
   DVT: Heparin SC 5000 tid
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL code
   Disposition: ICU

2104-06-06 10:47:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2104-6-5**] 11:02 AM
 ULTRASOUND - At [**2104-6-5**] 03:03 PM
   kidney
 TRANSTHORACIC ECHO - At [**2104-6-5**] 03:25 PM
 ARTERIAL LINE - START [**2104-6-5**] 06:00 PM
   Intubated (details in assessment)
   A-line placed
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2104-6-5**] 12:30 PM
   Fentanyl - [**2104-6-5**] 12:30 PM
   Propofol - [**2104-6-5**] 05:30 PM
   Heparin Sodium (Prophylaxis) - [**2104-6-6**] 08:23 AM
   Lansoprazole (Prevacid) - [**2104-6-6**] 08:23 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-6**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 86 (77 - 124) bpm
   BP: 151/84(99) {94/44(63) - 206/118(121)} mmHg
   RR: 9 (7 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  2,039 mL
                                                                  4,028 mL
   PO:
             TF:
   IVF:
                                                                  1,919 mL
                                                                  3,768 mL
   Blood products:
   Total out:
                                                                    786 mL
                                                                    435 mL
   Urine:
                                                                    786 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,253 mL
                                                                  3,593 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 750 (600 - 750) mL
   Vt (Spontaneous): 787 (787 - 787) mL
   PS : 15 cmH2O
   RR (Set): 10
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 14
   PIP: 22 cmH2O
   SpO2: 98%
   ABG: 7.27/39/129/14/-8
   Ve: 10.2 L/min
   PaO2 / FiO2: 322
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   198 K/uL
   164 mg/dL
   4.1 mg/dL
   14 mEq/L
   5.3 mEq/L
   71 mg/dL
   97 mEq/L
   125 mEq/L
   27.9 %
   9.3 K/uL
        [image002.jpg]
                             [**2104-6-3**]  11:01 PM
                             [**2104-6-4**]  03:22 AM
                             [**2104-6-4**]  05:23 AM
                             [**2104-6-5**]  04:15 AM
                             [**2104-6-5**]  06:45 AM
                             [**2104-6-5**]  02:35 PM
                             [**2104-6-5**]  06:28 PM
                             [**2104-6-5**]  11:05 PM
                             [**2104-6-6**]  02:59 AM
                             [**2104-6-6**]  03:26 AM
   WBC
   7.4
   10.5
   9.3
   Hct
   26.3
   30.5
   27.9
   Plt
   [**Telephone/Fax (3) 6230**]
   Cr
   3.8
   3.5
   3.7
   3.7
   4.1
   4.1
   TropT
   0.05
   TCO2
   20
   18
   20
   19
   Glucose
   178
   497
   211
   148
   166
   164
   Other labs: PT / PTT / INR:13.9/35.5/1.2, CK / CKMB /
   Troponin-T:210/8/0.05, Lactic Acid:0.7 mmol/L, Ca++:7.2 mg/dL, Mg++:1.9
   mg/dL, PO4:5.2 mg/dL
   Imaging: CT--Lungs clear, no airway abnormalities, no infiltrates,
   small areas of emphysema
   U/S--worsening resistive indices on renal U/S
   Assessment and Plan
   60 yo male with history of ESRD and s/p renal transplant now with
   intubation in the setting of progressive respiratory
   distress--tachypnea, weezing not responseive to racemic epinephrine or
   albuterol.  Following intubation patient with persistent and
   significant expiratory flow limitation and CT scan not showing
   prominent abnormality.  This leaves possible ongoing trigger for
   persistent bronchospasm or allergic reaction/anaphylaxis or TBM
   potentially driving findings which is one which has persisted despite
   high dose of steroids.
   What we are left with now is a need to explain possible sources as best
   as they can be defined.  For Bronchomalacia
certainly with the forced
   exhalations he is undertaking this may promote collapse which will
   overwhelm the effects of PEEP.  Will need to paralyze
if paralytics
   used and expiratory airflow back to normal with PEEP this would argue
   for central airway.  Alternatively parooxyms may be
   allergen/anaphylactic triggered (Cymbalta, insulin, heparin, cellcept,
   colace, methylpred, lansoprazole all given before most recent
   paroxysm), alternatively patient does have infecitous insult as
   possible trigger with course made worse or prolonged in the setting of
   immunosupression.
   1)Respiratory Failure-Complex picture described above to be evaluated
   by the following interventions
   -Will send tryptase
   -Will pursue paralysis on ventilator to evaluate response to PEEP of
   obstruction
   -Will minimize medications
   -Continue PSV
   -Solumedrol 125mg tid had no meaningful improvement and will move to
   off in the setting of ongoing infection
   -Azithro completed
   -Will review Cymbalta as possible contributor
   3)Chronic and Acute Renal Failure-
   -Tacrolimus, Mycophenilate, Solumedrol as above
will return to baseline
   steroid dosing or steroid dosing indicated by concern for rejection on
   renal team
s part.
   -Will need to follow up on U/S final conclusions and need for biopsy.
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Arterial Line - [**2104-6-5**] 06:00 PM
   18 Gauge - [**2104-6-6**] 12:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes

2104-06-07 13:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   60 M intubated 2 days ago for acute resp failure
   Rest of hx reviewed
   24 Hour Events:
   Paralysed to check compliance - plateau to PIP wide variation
   Stopped Cymbalta
   Stopped Solumedrol yesterday
   Overnight - hypertensive, tx with prn Fentanyl.
   High residuals so likely not getting PO pain meds
   No bowel movements x 4-5 days
   Completed course of Azithro yesterday
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 80 mcg/Kg/min
   Other ICU medications:
   Cisatracurium - [**2104-6-6**] 04:00 PM
   Lansoprazole (Prevacid) - [**2104-6-7**] 07:24 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-7**] 07:24 AM
   Fentanyl - [**2104-6-7**] 11:00 AM
   Other medications:
   Other meds reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-7**] 12:45 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 109 (94 - 115) bpm
   BP: 144/72(96) {100/67(78) - 164/92(113)} mmHg
   RR: 25 (10 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 80 Inch
             Total In:
                                                                  5,093 mL
                                                                    977 mL
   PO:
             TF:
                                                                     53 mL
                                                                    158 mL
   IVF:
                                                                  4,600 mL
                                                                    719 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                  1,675 mL
   Urine:
                                                                  1,060 mL
                                                                    825 mL
   NG:
   850 mL
   Stool:
   Drains:
   Balance:
                                                                  4,033 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 650 (650 - 650) mL
   Vt (Spontaneous): 498 (498 - 870) mL
   PS : 10 cmH2O
   RR (Set): 10
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 28
   PIP: 16 cmH2O
   Plateau: 11 cmH2O
   SpO2: 99%
   ABG: 7.29/37/95.[**Numeric Identifier 253**]/17/-7
   Ve: 13.2 L/min
   PaO2 / FiO2: 240
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender, Hypoactive BS
   Extremities: Right: Absent, Left: Absent, RUE fistula
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   305 K/uL
   137 mg/dL
   4.3 mg/dL
   17 mEq/L
   5.2 mEq/L
   72 mg/dL
   95 mEq/L
   125 mEq/L
   28.3 %
   16.3 K/uL
        [image002.jpg]
                             [**2104-6-5**]  02:35 PM
                             [**2104-6-5**]  06:28 PM
                             [**2104-6-5**]  11:05 PM
                             [**2104-6-6**]  02:59 AM
                             [**2104-6-6**]  03:26 AM
                             [**2104-6-6**]  06:07 PM
                             [**2104-6-6**]  06:19 PM
                             [**2104-6-7**]  02:40 AM
                             [**2104-6-7**]  03:41 AM
                             [**2104-6-7**]  10:08 AM
   WBC
   9.3
   16.3
   Hct
   27.9
   28.3
   Plt
   198
   305
   Cr
   4.1
   4.1
   4.3
   TCO2
   20
   18
   20
   19
   18
   19
   19
   Glucose
   164
   166
   137
   Other labs: PT / PTT / INR:12.0/36.2/1.0, CK / CKMB /
   Troponin-T:210/8/0.05, Differential-Neuts:87.4 %, Lymph:3.2 %, Mono:8.7
   %, Eos:0.5 %, Lactic Acid:0.6 mmol/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL,
   PO4:5.7 mg/dL
   Imaging: CXR - ETT and NG in good position. No new infiltrates
   Microbiology: No sputum, other cultures NGTD
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   60 yo male with history of ESRD and s/p renal transplant now with
   intubation in the setting of progressive respiratory
   distress--tachypnea, weezing not responseive to racemic epinephrine or
   albuterol.  Following intubation patient with persistent and
   significant expiratory flow limitation and CT scan not showing
   prominent abnormality.  This leaves possible ongoing trigger for
   persistent bronchospasm or allergic reaction/anaphylaxis or TBM
   potentially driving findings which is one which has persisted despite
   high dose of steroids.
   What we are left with now is a need to explain possible sources as best
   as they can be defined.  For Bronchomalacia
certainly with the forced
   exhalations he is undertaking this may promote collapse which will
   overwhelm the effects of PEEP.  Will need to paralyze
if paralytics
   used and expiratory airflow back to normal with PEEP this would argue
   for central airway.  Alternatively parooxyms may be
   allergen/anaphylactic triggered (Cymbalta, insulin, heparin, cellcept,
   colace, methylpred, lansoprazole all given before most recent
   paroxysm), alternatively patient does have infectious insult as
   possible trigger with course made worse or prolonged in the setting of
   immunosupression.
   1) Acute Respiratory Failure
   -Will send tryptase
   -minimize medications
   -Continue PSV
   -Off high dose steroids
   -Azithro completed, off Cymbalta empirically to eliminate possible
   causes though unlikely
   2) Chronic and Acute Renal Failure-
   -Tacrolimus, Mycophenilate, usual prednisone as above
will return to
   baseline steroid dosing or steroid dosing indicated by concern for
   rejection on renal team
s part.
   -Will need to follow up on renal biopsy.
   3) DM
   4) Nutrition
 assume no PO meds being absorbed. Will change PO to IV
   meds.
   - gastroparesis by study in [**2101**], likely related to DM.
   - trial of Reglan, if not successful, will insert post-pyloric dobhoff.
   Consider TPN if necessary.
   5) Constipation
   - bowel regimen
   - check KUB
   ICU Care
   Nutrition: high residuals
   Glycemic Control:  RISS
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Arterial Line - [**2104-6-5**] 06:00 PM
   18 Gauge - [**2104-6-6**] 12:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2104-06-08 11:05:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2104-6-8**] 01:09 AM
   Fentanyl boluses switched to drip.
   TSH 0.62, AM cortisol 14.9
   For high residuals, bowel regimen and Reglan started.
   Flovent MDI added for bronchospasm, Off systemic steroids [**6-6**]
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 100 mcg/hour
   Propofol - 90 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2104-6-7**] 12:48 PM
   Pantoprazole (Protonix) - [**2104-6-8**] 07:33 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-8**] 07:33 AM
   Fentanyl - [**2104-6-8**] 07:33 AM
   Hydralazine - [**2104-6-8**] 10:36 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-8**] 11:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 108 (103 - 117) bpm
   BP: 162/98(118) {110/65(80) - 194/100(130)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 80 Inch
             Total In:
                                                                  2,482 mL
                                                                  1,407 mL
   PO:
             TF:
                                                                    158 mL
   IVF:
                                                                  1,974 mL
                                                                  1,267 mL
   Blood products:
   Total out:
                                                                  3,050 mL
                                                                    925 mL
   Urine:
                                                                  2,010 mL
                                                                    815 mL
   NG:
                                                                  1,040 mL
                                                                    110 mL
   Stool:
   Drains:
   Balance:
                                                                   -568 mL
                                                                    482 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 655 (498 - 740) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 48
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///19/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Breath Sounds: prolonged expiratory phase,
   occasional wheezes
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Sedated, Tone: Not assessed
   Labs / Radiology
   9.9 g/dL
   364 K/uL
   150 mg/dL
   3.8 mg/dL
   19 mEq/L
   4.9 mEq/L
   75 mg/dL
   99 mEq/L
   129 mEq/L
   30.3 %
   23.2 K/uL
        [image002.jpg]
                             [**2104-6-5**]  11:05 PM
                             [**2104-6-6**]  02:59 AM
                             [**2104-6-6**]  03:26 AM
                             [**2104-6-6**]  06:07 PM
                             [**2104-6-6**]  06:19 PM
                             [**2104-6-7**]  02:40 AM
                             [**2104-6-7**]  03:41 AM
                             [**2104-6-7**]  10:08 AM
                             [**2104-6-7**]  08:30 PM
                             [**2104-6-8**]  04:18 AM
   WBC
   9.3
   16.3
   23.2
   Hct
   27.9
   28.3
   30.3
   Plt
   198
   305
   364
   Cr
   4.1
   4.1
   4.3
   3.9
   3.8
   TCO2
   20
   19
   18
   19
   19
   Glucose
   164
   166
   137
   160
   150
   Other labs: PT / PTT / INR:12.0/36.2/1.0, CK / CKMB /
   Troponin-T:210/8/0.05, Differential-Neuts:80.0 %, Band:4.0 %, Lymph:7.0
   %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:0.6 mmol/L, Ca++:8.9 mg/dL,
   Mg++:2.0 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   60 yo male with history of ESRD and s/p renal transplant now with
   intubation in the setting of progressive respiratory
   distress--tachypnea, weezing not responseive to racemic epinephrine or
   albuterol.  Following intubation patient with persistent and
   significant expiratory flow limitation and CT scan not showing
   prominent abnormality.  This leaves possible ongoing trigger for
   persistent bronchospasm or allergic reaction/anaphylaxis or TBM
   potentially driving findings which is one which has persisted despite
   high dose of steroids.
   What we are left with now is a need to explain possible sources as best
   as they can be defined.  For Bronchomalacia
certainly with the forced
   exhalations he is undertaking this may promote collapse which will
   overwhelm the effects of PEEP.  Will need to paralyze
if paralytics
   used and expiratory airflow back to normal with PEEP this would argue
   for central airway.  Alternatively parooxyms may be
   allergen/anaphylactic triggered (Cymbalta, insulin, heparin, cellcept,
   colace, methylpred, lansoprazole all given before most recent
   paroxysm), alternatively patient does have infectious insult as
   possible trigger with course made worse or prolonged in the setting of
   immunosupression.
   1) Acute Respiratory Failure
   -minimize medications
   -Continue PSV --> SBT today, may be ready to extubate
   -Off high dose steroids, on Flovent MDI only, bronchospasm much
   improved
   -Azithro completed, off Cymbalta empirically to eliminate possible
   causes though unlikely
   - f/u on echo report
   2) Leukocytosis with 4% bands
   Concern for brewing infection, VAP but no infiltrate on CXR, no fever
   3) Chronic and Acute Renal Failure-
   -Tacrolimus, Mycophenilate, usual prednisone now dex IV
   -Will need to follow up on renal biopsy.
   3) DM
   4) Nutrition
 high residuals are improving.
   - gastroparesis by study in [**2101**], likely related to DM.
   - continue trial of Reglan, if not successful, will insert post-pyloric
   dobhoff. Consider TPN if necessary.
   5) Constipation
   - c/w bowel regimen
   - check KUB
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Arterial Line - [**2104-6-5**] 06:00 PM
   18 Gauge - [**2104-6-6**] 12:41 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 39 minutes
   Patient is critically ill

2104-06-09 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2104-6-9**] 05:27 AM
 TRIPLE INTRODUCER - START [**2104-6-9**] 05:29 AM
   -Renal: am tacro level
   -SBT: Numbers were good per respiratory, but patient appeared to have
   increase work of breathing.  Could not wean sedation enough to
   extubate, patient became agitated and had increased work of breathing.
   -Labile BP Sbp: 76 - 190s. Hypotension responded to fluid boluses,
   received a lot of fluid as suspecting sepsis.
   -Started on Vanc/Zosyn for presumed VAP
   -TF started then held for high residuals a few hours later
   -Changed from PS to CMV/Assist.
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2104-6-8**] 12:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-6-9**] 12:48 AM
   Metronidazole - [**2104-6-9**] 04:03 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3.8 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2104-6-8**] 07:33 AM
   Fentanyl - [**2104-6-8**] 07:33 AM
   Hydralazine - [**2104-6-8**] 10:36 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-8**] 11:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-9**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 109 (103 - 121) bpm
   BP: 106/73(85) {89/58(71) - 196/100(130)} mmHg
   RR: 33 (18 - 33) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 80 Inch
    CVP: 9 (9 - 16)mmHg
   CO/CI (Fick): (14.8 L/min) / (6.4 L/min/m2)
   Mixed Venous O2% Sat: 81 - 81
   Total In:
                                                                  6,245 mL
                                                                  2,888 mL
   PO:
   TF:
                                                                     39 mL
   IVF:
                                                                  5,865 mL
                                                                  2,888 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,175 mL
   Urine:
                                                                  1,580 mL
                                                                    175 mL
   NG:
                                                                    110 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  4,555 mL
                                                                  1,713 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (482 - 655) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 28 cmH2O
   Plateau: 22 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 95%
   ABG: 7.16/49/205/17/-11
   Ve: 18.9 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General: intubated, sedated
   Pulmonary: course breath sounds, occasional wheezes, +rhonchi
   Cardiac: tachycardic, regular, normal S1/S2
   Abdomen: Soft, hypoactive BS
   Extremities: No edema.  Has non-functional right UE fistula.  A-line in
   place LUE. Left midline.
   Skin: Multiple keloids
   Neurologic: sedated as above, not arousable to voice
   Labs / Radiology
   369 K/uL
   10.4 g/dL
   70 mg/dL
   3.6 mg/dL
   17 mEq/L
   5.1 mEq/L
   71 mg/dL
   102 mEq/L
   134 mEq/L
   32.5 %
   28.2 K/uL
        [image002.jpg]
                             [**2104-6-8**]  04:18 AM
                             [**2104-6-8**]  04:26 PM
                             [**2104-6-8**]  08:08 PM
                             [**2104-6-8**]  10:13 PM
                             [**2104-6-9**]  12:02 AM
                             [**2104-6-9**]  02:20 AM
                             [**2104-6-9**]  02:24 AM
                             [**2104-6-9**]  03:19 AM
                             [**2104-6-9**]  04:05 AM
                             [**2104-6-9**]  05:43 AM
   WBC
   23.2
   28.2
   Hct
   30.3
   32.5
   Plt
   364
   369
   Cr
   3.8
   3.6
   TCO2
   21
   20
   21
   20
   21
   19
   20
   18
   Glucose
   150
   70
   Other labs: PT / PTT / INR:12.0/36.2/1.0, CK / CKMB /
   Troponin-T:210/8/0.05, Differential-Neuts:80.0 %, Band:4.0 %, Lymph:7.0
   %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CONSTIPATION (OBSTIPATION, FOS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   60 yo man with ESRD s/p CRT, HTN, COPD p/w severe hypertension and
   dyspnea, now intubated for progressive respiratory distress.
   # Hypotension:  Most likely secondary to sepsis given low CVP, CXR with
   infiltrate, and GNR in sputum.   Also there is some concern for adrenal
   insufficiency, although he is currently on stress-dose steroids.  CVP
   is low, so cardiogenic shock is less likely.  Volume depletion may also
   be at play.
   - continue pressure support with vasopressin, phenylephrine, levophed
   - attempt to wean levophed as tolerated to maintain MAP >60
   - f/u echo for potential cardiac cause
   - continue stress-dose steroids
   - continue vanc/zosyn for likely pulmonary source of infection
   - repeat stool for c diff
   .
   # Respiratory failure:  Likely secondary to Underlying COPD with
   possible exacerbation in setting of parainfluenza, also with ?component
   of CHF. Ruled out for ACS. Progressive respiratory distress and fatigue
   required intubation on [**6-5**]. ABGs now consistent with adequate
   oxygenation and ventilation. CT scan without significant pulm dz and
   vent physiology most consistent with small airways obstruction,
   bronchospasm. I:E ratio improving with decreased wheezes on exam but
   not candidate for extubation today
   -Continue frequent bronchodilator therapy with albuterol and atrovent
   -Azithromycin 5-day course completed yesterday
   -Discontinued high-dose steroids yesterday dose (d/t lack of benefit x
   three days) and restarted on usual renal transplant prednisone
   -F/u micro data
   -RSBI/SBT tomorrow
   # Volatile blood pressure: Has known difficult to control HTN, with
   hypertensive nephropathy/ESRD s/p transplant.  Reports med adherence.
   [**Month (only) 8**] be due to respiratory distress, HD steroids, narcotic withdrawal,
   renal failure, volume overload. No evidence of RAS on renal US.  Had
   been on hydral 75mg q6H, clonidine 0.1mg PO TID, Amlodipine 10mg daily,
   and Nicardipine gtt; however, post-intubation his blood pressure
   dropped and he has since required fluid boluses to maintain MAP >65.
   Now BP increasing again, ?in setting of inadequate pain control with
   poor gastric motility.
   - fentanyl gtt as may not be absorbing po pain meds
   -Consider hydral prn or nicardipine gtt if persistently elevated BP
   -Holding [**Last Name (un) **] due to ARF and beta blockers due to resp status
   -F/u renal recs
   # Decreased gastric motility: High residuals from tube feeds. H/o poor
   motility on prior gastric emptying study, may be [**3-3**] DM. Likely also
   exacerbated by narcotics and has not had bowel mvt in [**5-4**] days.
   -KUB to evaluate for ileus
   -Reglan
   -aggressive bowel regimen
   -may need placement of post-pyloric dobhoff for nutrition if not
   improving
   # Acute renal failure: History of ESRD due to hypertensive nephropathy,
   had been on dialysis before CRT in [**2097**].  Reports adherence with
   immunosuppresants. FeNa 1.4.  Unclear precipitant for ARF, ddx includes
   dehydration, although unlikely given hypertension; transplant
   nephropathy. Question of rejection on most recent ultrasound and now
   s/p transplant bx. Tacrolimus level in nl range.  BK virus DNA not
   detected.
   -F/u renal recs
   -Await transplant bx result
   -Continue steroids, cellcept, prograf
   -Replete sodium and bicarb per renal recs
   -Cont to hold [**Last Name (un) **] and gabapentin for now
   # Hyponatremia: Suspect SIADH secondary to pulmonary process; urine
   osms 314 suggests that he may be inappropriately concentrating urine.
   Consider fluid restriction.
   -Sodium bicarb repletion per renal recs
   -Repeat lytes
   # Hyperlipidemia:
   -continue statin and ezetimibe
   # DM:
   -HISS
   -diabetic diet
   # Chronic pain:
   -Fentanyl gtt
   -holding po pain meds for now due to poor gastric motility (home
   oxycontin, methadone, and dilaudid prn)
   -holding gabapentin due to ARF
   # GERD:
   -Home PPI [**Hospital1 **]
   # Constipation: passing gas, positive BS, small BM overnight.
   -senna, colace, bisacodyl pr, miralax, raglan
 broader as [**Last Name (un) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Arterial Line - [**2104-6-5**] 06:00 PM
   18 Gauge - [**2104-6-9**] 04:50 AM
   Multi Lumen - [**2104-6-9**] 05:27 AM
   Triple Introducer - [**2104-6-9**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2104-06-09 09:39:00 Physician Attending Progress Note
Chief Complaint: resp failure, septic shock, ARF on CRI, parainfluenza
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 60 yo M with COPD, immunosupressed s/p renal transplant admitted
   with progressive resp distress requiring intubation----had tachypnea,
   weezing minimally responsive to racemic epinephrine, albuterol, and
   high dose steroids
parainfleunza +, significant expiratory limitation
   and ventilatory defect concerning for possiblity of contribution from
   TBM or small airways reactivity, now with progressive hypotension on
   triple pressors, severe metabolic + resp acidosis, ARF on CRI,
   leukocytosis, and GNR in sputum treating empirically for vap
   24 Hour Events:
 MULTI LUMEN - START [**2104-6-9**] 05:27 AM
 TRIPLE INTRODUCER - START [**2104-6-9**] 05:29 AM
   Developed progressive hypotension overnight
now on three pressors for
   HD support--vasop, neo, levo
   Sepsis/VAP--vanco/zosyn started
   Changed to PCV
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Enalapril
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2104-6-8**] 12:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2104-6-9**] 12:48 AM
   Metronidazole - [**2104-6-9**] 04:03 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.15 mcg/Kg/min
   Other ICU medications:
   Hydralazine - [**2104-6-8**] 10:36 AM
   Heparin Sodium (Prophylaxis) - [**2104-6-8**] 11:49 PM
   Other medications: per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2104-6-9**] 09:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 110 (102 - 121) bpm
   BP: 126/81(96) {76/58(65) - 196/100(130)} mmHg
   RR: 31 (18 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 80 Inch
   CVP: 5 (3 - 16)mmHg
   CO/CI (Fick): (14.8 L/min) / (6.4 L/min/m2)
   Mixed Venous O2% Sat: 81 - 81
                                Total In:
                                                                  6,245 mL
                                                                  3,069 mL
   PO:
                                TF:
                                                                     39 mL
   IVF:
                                                                  5,865 mL
                                                                  3,069 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                  1,175 mL
   Urine:
                                                                  1,580 mL
                                                                    175 mL
   NG:
                                                                    110 mL
                                                                  1,000 mL
   Stool:
   Drains:
   Balance:
                                                                  4,555 mL
                                                                  1,894 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (482 - 586) mL
   PS : 15 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 35 cmH2O
   Plateau: 20 cmH2O
   Compliance: 51 cmH2O/mL
   SpO2: 100%
   ABG: 7.16/49/205/17/-11
   Ve: 16.7 L/min
   PaO2 / FiO2: 205
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), decreased BS, minimal air
   movement
   Abdominal: Bowel sounds present, Distended, No(t) Tender: , Obese,
   decreased BS
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  cool
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   369 K/uL
   70 mg/dL
   3.6 mg/dL
   17 mEq/L
   5.1 mEq/L
   71 mg/dL
   102 mEq/L
   134 mEq/L
   32.5 %
   28.2 K/uL
        [image002.jpg]
                             [**2104-6-8**]  04:18 AM
                             [**2104-6-8**]  04:26 PM
                             [**2104-6-8**]  08:08 PM
                             [**2104-6-8**]  10:13 PM
                             [**2104-6-9**]  12:02 AM
                             [**2104-6-9**]  02:20 AM
                             [**2104-6-9**]  02:24 AM
                             [**2104-6-9**]  03:19 AM
                             [**2104-6-9**]  04:05 AM
                             [**2104-6-9**]  05:43 AM
   WBC
   23.2
   28.2
   Hct
   30.3
   32.5
   Plt
   364
   369
   Cr
   3.8
   3.6
   TCO2
   21
   20
   21
   20
   21
   19
   20
   18
   Glucose
   150
   70
   Other labs: PT / PTT / INR:12.0/36.2/1.0, CK / CKMB /
   Troponin-T:210/8/0.05, Differential-Neuts:80.0 %, Band:4.0 %, Lymph:7.0
   %, Mono:8.0 %, Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:9.2 mg/dL,
   Mg++:1.8 mg/dL, PO4:5.9 mg/dL
   Imaging: progressive R > L lower lung infiltrates
   ET/R IJ in position
   Microbiology: sputum [**6-8**]--GNR, GPC
   [**6-8**]--blood pending
   c diff neg [**6-8**]
   [**6-3**]--nasal asp --parainflu
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 CONSTIPATION (OBSTIPATION, FOS)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITHOUT ACUTE EXACERBATION
   60 yo M with COPD, immunosupressed s/p renal transplant admitted with
   progressive resp distress requiring intubation----tachypnea, weezing
   minimally responsive to racemic epinephrine, albuterol, and high dose
   steroids
parainfleunza +, significant expiratory limitation and
   ventilatory defect concerning for possibility of contribution from TBM
   or small airways reactivity now with progressive hypotension on triple
   pressors, severe metabolic + resp acidosis, ARF on CRI, leukocytosis,
   and GNR in sputum treating empirically for vap
   #  hypotension/shock
   most concerning for septic shock with gnr sputum and now with worsening
   infil on cxr
   also possible component of adrenal insuf in this immunosupressed host
   Given low CVPS
cardiogenic shock seems less likely
   ---continue aggressive IVF to maintain cvp > 10--would give 1 L bicarb
   and then LR alternating with NS given worsening met acidosis
   --continue pressor support--now on triple-- to maintain MAP > 60--wean
   as able
   --f/u TTE results
   --continue stress steroids
   --continue current broad antbx--vanco/zosyn/flagyl following cx results
   --check bladder pressure to eval for compartment syndrome contributing
   to hypotension and renal failure, though lower clinical suspicion
   # resp failure--
   copd, small airways ds, with parainfluenza, and developing b/l lower
   zone infiltrates with gnr in sputum concerning for HPA/VAP
   ventilation is worsening--now with met and resp acidosis
worse after
   compensatory increase in resp rate
   has sig autopeep
   --continue ACV
   --attempt matching peep, decrease resp rate and increase TV slightly to
   see if helps w/ ventilatory picture / expiration
   --continue broad coverage as above
   --change nebs to MDIs
   --discuss worsening status with renal as cvvh may help with metabolic
   picture/severe acidosis
   # Acute renal failure on CRI--urine output decreasing but CVPs
   low--will give bicarb, renal following and aware of decline (? need for
   CVVH)
   check bladder pressure as above
   renal transplant meds/dosing
   f/u renal bx results
   #abd distension--bladder pressure, kub, follow up c diff toxin
   # thyroid fx--confusing picture, appears suppressed
likely sickj
   euthyroid--will consult endo for additional input
   #  Nutrition
 high residuals from TFs.
   - gastroparesis by study in [**2101**], likely related to DM. now with
   probable ileus ins etting of sepsis/pressors
   - hold TF at this time
   Prognosis is poor given multiorgan system involvement and progressive
   decline.  Will address goals of care with family and update them as to
   worsening clinical condition.
   Remainder as per resident note
   ICU Care
   Nutrition:
   Comments: holding TF
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Midline - [**2104-6-4**] 10:00 AM
   Arterial Line - [**2104-6-5**] 06:00 PM
   18 Gauge - [**2104-6-9**] 04:50 AM
   Multi Lumen - [**2104-6-9**] 05:27 AM
   Triple Introducer - [**2104-6-9**] 05:29 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill